US07141590B2
B. 6-Chloro-N-(4-fluoro-phenyl)-1-oxy-nicotinamide
To a solution of 6-chloro-N-(4-fluoro-phenyl)-nicotinamide (2.06 g, 8.2 mmole) in 30 mL of acetic acid was added 30 mL of aqueous hydrogen peroxide (30%). The mixture was warmed to 70° C. and stirred for 18 hours, and then 20 mL of additional hydrogen peroxide (30%) was added and stirred for 2 hours. The mixture was then cooled, concentrated in vacuo and diluted with water (100 mL). Isolation of the precipitate by vacuum filtration afforded 0.43 g (20%) of the desired product as a white solid: 1H NMR (300 MHz, DMSO-d6) δ7.19 (m 2H), 7.75 (M, 3H), 7.95 (M, 1H), 8.94 (d, 1H, J=2.2 Hz), 10.5 (s, 1H); MS (EI) m/z 267.19 (M+H)+.

reactant | 6-chloro-N-(4-fluoro-phenyl)-nicotinamide | 8.2 mmole, 2.06 g | ClC1=NC=C(C(=O)NC2=CC=C(C=C2)F)C=C1 | C12H8ClFN2O
reactant | hydrogen peroxide | 30 mL | OO | H2O2
reactant | hydrogen peroxide | 20 mL | OO | H2O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 6-Chloro-N-(4-fluoro-phenyl)-1-oxy-nicotinamide | 0.43 g, 20% | C1=CC(=CC=C1NC(=O)C2=C[N+](=C(C=C2)Cl)[O-])F | C12H8ClFN2O2
